US06890947B2
In analogy to the procedures described in examples 36a) and 36b), rac-2-ethoxy-3-(3-methyl-1H-indol-5-yl)-propionic acid ethyl ester (preparation 4) was reacted with 4-chloromethyl-2-(2-chloro-phenyl)-5-methyl-oxazole to give rac-3-{1-[2-(2-chloro-phenyl)-5-methyl-oxazol-4-ylmethyl]-3-methyl-1H-indol-5-yl}-2-ethoxy-propionic acid ethyl ester, which was subsequently saponified to yield the title compound as colorless solid.

reactant | rac-2-ethoxy-3-(3-methyl-1H-indol-5-yl)-propionic acid ethyl ester | C(C)OC(C(CC=1C=C2C(=CNC2=CC1)C)OCC)=O | C16H21NO3
reactant | 4-chloromethyl-2-(2-chloro-phenyl)-5-methyl-oxazole | ClCC=1N=C(OC1C)C1=C(C=CC=C1)Cl | C11H9Cl2NO
product | rac-3-{1-[2-(2-chloro-phenyl)-5-methyl-oxazol-4-ylmethyl]-3-methyl-1H-indol-5-yl}-2-ethoxy-propionic acid ethyl ester | C(C)OC(C(CC=1C=C2C(=CN(C2=CC1)CC=1N=C(OC1C)C1=C(C=CC=C1)Cl)C)OCC)=O | C27H29ClN2O4
